US20010000513A1
In a manner similar to Example 4, Step (b), 4-(3′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester (1.0968 g, 0.00383 mol) was refluxed in 6 M aqueous hydrochloric acid (20 mL) to give 1.007 g of 4-(3′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid as a pale orange solid; mp 153-155° C.

reactant | 4-(3′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid, methyl ester | 0.00383 mol, 1.0968 g | FC=1C=C(C=CC1)C1=CC=C(C=C1)C(CCC(=O)OC)=O | C17H15FO3
solvent | hydrochloric acid | 6 M, 20 mL | Cl | ClH
product | 4-(3′-fluoro-biphenyl-4-yl)-4-oxo-butyric acid | 1.007 g | FC=1C=C(C=CC1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13FO3
